US07723330B2
Step D: Preparation of 5-bromo-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one:
To a solution of 3-methyl-2-(phenylamino)pyrimidin-4(3H)-one (0.104 g, 0.517 mmol) in CHCl3 (5 mL)/MeOH (1 mL) at 0° C. was added bromine (0.027 mL, 0.517 mmol). The reaction mixture was stirred for 30 minutes at room temperature and then quenched with 10% aqueous sodium bisulfite solution. The reaction mixture was partitioned between EtOAc and H2O. The phases were separated, and the aqueous phase was re-extracted with EtOAc (1×). The combined organic layers were dried (Na2SO4), filtered and concentrated to yield the desired product (0.145 g; 100%) as a white solid that was used without further purification. 1H NMR (400 MHz, DMSO-d6) δ 8.95 (s, 1H), 7.94 (s, 1H), 7.47 (m, 2H), 7.34 (t, J=7.4 Hz, 2H), 7.14 (t, J=7.4 Hz, 1H), 3.53 (s, 3H). LRMS (ESI pos) m/e 280, 282 (M+1, Br pattern).

reactant | 3-methyl-2-(phenylamino)pyrimidin-4(3H)-one | 0.517 mmol, 0.104 g | CN1C(=NC=CC1=O)NC1=CC=CC=C1 | C11H11N3O
reactant | MeOH | 1 mL | CO | CH4O
reactant | bromine | 0.517 mmol, 0.027 mL | BrBr | Br2
solvent | CHCl3 | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-bromo-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one | 0.145 g, 100% | BrC=1C(N(C(=NC1)NC1=CC=CC=C1)C)=O | C11H10BrN3O
